US08470828B2
Trans-{4-[2-(4-thieno[2,3-c]pyridin-7-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester (605 mg, 1.36 mmol) was dissolved in a mixture of EtOAc (10 ml) and MeOH (1 ml) and treated with 2 N HCl in Et2O (10 ml, 20 mmol). The resulting mixture was stirred 5 h at room temperature. A white precipitate was formed that was collected by filtration and washed with EtOAc. The solid was dried over night under high vacuum to yield trans-4-[2-(4-thieno[2,3-c]pyridin-7-yl-piperazin-1-yl)-ethyl]-cyclohexylamine trihydrochloride as a white solid (365 mg, 59%), MS (ISP) m/z=345.2 [(M+H)+].

reactant | Trans-{4-[2-(4-thieno[2,3-c]pyridin-7-yl-piperazin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 1.36 mmol, 605 mg | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1CCN(CC1)C=1N=CC=C2C1SC=C2)=O | C24H36N4O2S
reactant | HCl | 2 N | Cl | ClH
reactant | Et2O | 20 mmol, 10 ml | CCOCC | C4H10O
solvent | EtOAc | 10 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 1 ml | CO | CH4O
product | trans-4-[2-(4-thieno[2,3-c]pyridin-7-yl-piperazin-1-yl)-ethyl]-cyclohexylamine trihydrochloride | 365 mg, 59% | Cl.Cl.Cl.S1C=CC=2C1=C(N=CC2)N2CCN(CC2)CC[C@@H]2CC[C@H](CC2)N | InChI=1S/C19H28N4S.3ClH/c20-17-3-1-15(2-4-17)6-9-22-10-12-23(13-11-22)19-18-16(5-8-21-19)7-14-24-18;;;/h5,7-8,14-15,17H,1-4,6,9-13,20H2;3*1H/t15-,17-;;;
